US06503907B2
20 mg (0.064 mmol) {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methylamine and 0.16 ml (0.96 mmol) N,N-diisopropyl ethyl amine in 1 ml of DMF were treated with 41 mg (0.32 mmol) 4-chloro-2-methylpyrimidine and stirred at 100° C. during 2 hours. After cooling to room temperature the mixture was treated with saturated aqueous NaCl and extracted three times with Et2O. Drying of the combined organic layers over Na2SO4, evaporation of the solvent and column chromatography on silica gel with EtOAc gave 19 mg (73%) {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methyl-(2-methyl-pyrimidin-4-yl)-amine as a light yellow oil, MS: 405 (MH+).

reactant | {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methylamine | 0.064 mmol, 20 mg | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OCCCCNC | C19H21FN2O
reactant | N,N-diisopropyl ethyl amine | 0.96 mmol, 0.16 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chloro-2-methylpyrimidine | 0.32 mmol, 41 mg | ClC1=NC(=NC=C1)C | C5H5ClN2
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methyl-(2-methyl-pyrimidin-4-yl)-amine | 19 mg, 73% | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OCCCCN(C1=NC(=NC=C1)C)C | C24H25FN4O
